US07354932B2
To a solution of N′-(1-(2-trimethylsilyl)-ethan-1yloxymethyl)-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-1,4-butanediamine (70 mg, 0.15 mmol) in methanol (4 mL) was added benzaldehyde (0.015 mL, 0.15 mmol). The mixture was stirred overnight at room temperature, then cooled to 0° C. Sodium borohydride (38 mg, 1.0 mmol) was then added, and the reaction was stirred for one hour, gradually warming to room temperature. The solution was then concentrated. The residue was taken up in dichloromethane and washed with 1N sodium hydroxide (3 mL), then dried over anhydrous sodium sulfate, concentrated and purified by chromatography on silica gel (10:1 dichloromethane:methanol) to afford N′-(1-(2-trimethylsilyl)-ethan-1yloxymethyl)-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-N-benzyl-1,4-butanediamine (39 mg, 49%). 1H NMR (CDCl3) δ 0.10(s, 9H), 0.80 (t, 2H, J=7.0 Hz), 1.41 (m, 3H), 1.76-2.21 (m, 5H), 2.44 (m, 2H), 2.46-2.26 (m, 2H), 3.35 (t, 2H, J=7.0 Hz), 3.67 (s, 2H), 4.06 (m, 1H), 4.08 (d, 1H, J=15.8 Hz), 4.22 (d, 1H, J=15.8 Hz), 5.80 (d, 1H, J=14.6 Hz), 6.02 (d, 1H, J=14.6 Hz), 7.00 (m, 1H), 7.27 (m, 8H), 7.42 (m, 1H), 7.80 (m, 1H), 8.44 (d, 1H, J=4.8 Hz).

reactant | (5,6,7,8-tetrahydroquinolin-8-yl)-1,4-butanediamine | 0.15 mmol, 70 mg | N1=CC=CC=2CCCC(C12)C(CCCN)N | C13H21N3
reactant | benzaldehyde | 0.15 mmol, 0.015 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium borohydride | 1.0 mmol, 38 mg | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | (5,6,7,8-tetrahydroquinolin-8-yl)-N-benzyl-1,4-butanediamine | 39 mg, 49% | N1=CC=CC=2CCCC(C12)C(CCCN)NCC1=CC=CC=C1 | C20H27N3
